US08957093B2
Step 1: 1-((2′-(tert-Butoxycarbonyl)-[1,1′-biphenyl]-4-yl)methyl)-1H-indole-5-carboxylic acid
The title compound was prepared following the same protocol as described in Step 2, Example 38, using 1H-indole-5-carboxylic acid instead of the methyl 1H-indole-5-carboxylate, and the tert-butyl 4′-(bromomethyl)biphenyl-2-carboxylate instead of the 1-bromo-4-(bromomethyl)benzene. ESI-MS (m/z): 428 [M+H]+.

reactant | 1H-indole-5-carboxylic acid | N1C=CC2=CC(=CC=C12)C(=O)O | C9H7NO2
reactant | tert-butyl 4′-(bromomethyl)biphenyl-2-carboxylate | BrCC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)OC(C)(C)C | C18H19BrO2
product | 1-((2′-(tert-Butoxycarbonyl)-[1,1′-biphenyl]-4-yl)methyl)-1H-indole-5-carboxylic acid | C(C)(C)(C)OC(=O)C1=C(C=CC=C1)C1=CC=C(C=C1)CN1C=CC2=CC(=CC=C12)C(=O)O | C27H25NO4
